US09375000B2
1,5-dichloro-2-fluoro-3-(3,3,3-trifluoroprop-1-en-2-yl)benzene (6.2 g) and N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (4.7 g) were dissolved in dichloromethane (100 ml) and slowly added dropwise with a dichloromethane solution (8 ml) of anhydrous trifluoroacetic acid (0.15 ml) under ice cooling. Upon the completion of the dropwise addition, the reaction temperature was raised to the room temperature and stirred overnight. The reaction solution was concentrated under reduced pressure, and the residue was purified by column chromatography to obtain 1-benzyl-3-(3,5-dichloro-2-fluorophenyl)-3-(trifluoromethyl)pyrrolidine (3.7 g).

reactant | 1,5-dichloro-2-fluoro-3-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 6.2 g | ClC1=C(C(=CC(=C1)Cl)C(=C)C(F)(F)F)F | C9H4Cl2F4
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 4.7 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 0.15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 1-benzyl-3-(3,5-dichloro-2-fluorophenyl)-3-(trifluoromethyl)pyrrolidine | 3.7 g | C(C1=CC=CC=C1)N1CC(CC1)(C(F)(F)F)C1=C(C(=CC(=C1)Cl)Cl)F | C18H15Cl2F4N
